US07442805B2
Synthesis of 1-benzhydryl-5-[(methylsulfonyl)amino]-3-phenyl-1H-indole-2-carboxylic acid
The title compound was prepared from ethyl 5-amino-1-benzhydryl-3-phenyl-1H-indole-2-carboxylate and methanesulfonyl chloride followed the procedure of Example 1 Step 3 as an off-white solid: 1H NMR (DMSO-d6) δ 2.85 (s, 3H, 6.79 (d, J=9.0 Hz, 1H, 6.95 (dd, J=9.0, 2.0 Hz, 1H, 7.19 (d, J=7.4 Hz, 4H, 7.30-7.50 (m, 12H, 7.91 (s, 1H, 9.37 (s, 1H, 13.21 (br s, 1H; MS (ESI) m/z 495 [M-H]−; HRMS calcd for C29H25N2O4S: 497.1533; found (ESI+): 497.1522; Anal. calcd for C29H24N2O4S.0.7H2O: C, 68.41; H, 5.03; N, 5.50. Found: C, 68.32; H, 4.91; N, 5.70.

reactant | ethyl 5-amino-1-benzhydryl-3-phenyl-1H-indole-2-carboxylate | NC=1C=C2C(=C(N(C2=CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC)C1=CC=CC=C1 | C30H26N2O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 1-benzhydryl-5-[(methylsulfonyl)amino]-3-phenyl-1H-indole-2-carboxylic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)NS(=O)(=O)C)C1=CC=CC=C1)C(=O)O | C29H24N2O4S
